US07326791B2
(c) 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(3-oxopiperazin-1-ylcarbonyl)benzamide
0.182 g (0.50 mmol) of 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-hydroxy-carbonylbenzamide is dissolved in 5 mL of N,N-dimethylformamide and 160.5 mg (0.50 mmol) of TBTU and 85.6 μL (0.50 mmol) of diisopropylethylamine are added successively with stirring at ambient temperature. Then a solution of 50 mg (0.50 mmol) of 2-oxopiperazine in 5 mL of N,N-dimethylformamide is added dropwise and the reaction mixture is stirred for 3 hours at ambient temperature. Then the solvent is eliminated in vacuo and the residue purified by chromatography on silica gel (gradient: dichloromethane/methanol=100:0 □93:7). Yield: 99 mg (44%); C20H17C12N5O3 (446.30); mass spectrum: (M+H)+=446/448/450 (chlorine isotope).

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-hydroxy-carbonylbenzamide | 0.50 mmol, 0.182 g | ClC=1C(C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1O)=C=O | C16H11Cl2N3O3
reactant | TBTU | 0.50 mmol, 160.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | 0.50 mmol, 85.6 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-oxopiperazine | 0.50 mmol, 50 mg | O=C1NCCNC1 | C4H8N2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(3-oxopiperazin-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CC(NCC1)=O | C20H17Cl2N5O3
